US05914328
52a 3-((1-t-Butyloxycarbonyl-2-(S)-azetidinyl)methoxy)-6-chloropyridine
A 950 mg (5.1 mmol) sample of 1-t-butyloxycarbonyl-2-(S)-azetidinemethanol, prepared as in Example 7b above, and 550 mg (4.25 mmol) of 2-chloro-5-hydroxypyridine were reacted with triphenylphosphine and DEAD (5.1 mmol each) in 20 mL of THF according to the procedure of Example 14a, to give 1.09 g of the title compound. MS (DCI/NH3) m/e: 299/301 (M+H)+. 1H NMR (DMSO-d6, 300 MHz) δ: 8.14 (d, J=3.3 Hz, 1H), 7.48 (dd, J=8.8, 3.3 Hz, 1H), 7.37 (d, J=8.8 Hz, 1H), 4.47-4.42 (m, 1H), 4.36 (dd, J=11.0, 4.4 Hz, 1H), 4.20 (dd, J=11.0, 3.3 Hz, 1H), 3.77 (t, J=7.7 Hz, 2H), 2.36-2.29 (m, 1H), 2.19-2.12 (m, 1H), 1.36 (s, 9H). [α]D25 =-67.3° (c=1.1, CHCl3).

reactant | 1-t-butyloxycarbonyl-2-(S)-azetidinemethanol | C(C)(C)(C)OC(=O)N1[C@@H](CC1)CO | C9H17NO3
reactant | 2-chloro-5-hydroxypyridine | 4.25 mmol, 550 mg | ClC1=NC=C(C=C1)O | C5H4ClNO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 5.1 mmol | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-((1-t-Butyloxycarbonyl-2-(S)-azetidinyl)methoxy)-6-chloropyridine | 1.09 g | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=NC(=CC1)Cl | C14H19ClN2O3
